Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
s/p arrest
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ y.o F with mild dementia, CAD, DM on insulin, and HTN, who 
initially presented to ___ for lethargy and hypoxia and 
was found to have and RSV infection and who is now s/p cardiac 
arrest this AM with suggestion of cardiac etiology. 

Patient is a poor historian at baseline and is intubated on 
arrival History obtained from chart. Patient presented to 
___ with cough and lethargy and was noted to be hypoxic. 
She tested positive for RSV and was admitted for symptomatic 
treatment with supplemental O2 and nebs. A CXR was notably 
negative on admission for PNA or signs of volume overload. This 
morning at 8 AM immediately after phlebotomy she was noted to be 
unresponsive, cyanotic and pulseless and so a code blue was 
called. Rhythm was reportedly PEA (no strips sent with patient). 
She was intubated in this setting. She underwent 5 rounds of 
CPR, 3 rounds of epinephrine, 2 amps of bicarb. She had an 
emergent left femoral groin line placed. ROSC was achieved and 
she was transferred to ICU. 

EKG showed Irregular narrow complex tachycardia with STD in II, 
III, AVF, V3-V6 and 1mm STE in AVL, sub MM STE in AVR

Labs post arrest were notable for: 
Chemistries: K of 3.9, Bicarb of 21 GLU 557 Cr 1.6 from 1.1 on 
admission 
Cardiac chemistries with Trop of .29 from .02 on presentation, 
and CKMB of 10.4 (CK 1374). 
Arterial gas: 7.22/42/359
Lactate: 8.3
 
BNP on admission was ___

Echocardiogram showed distal septal, apical, anterior akinesis.  
Global ejection fraction 35%.  Mild mitral, tricuspid, and 
aortic insufficiency. She was started on aspirin, plavix and 
heparin gtt for MI management. She was started on norepinephrine 
and phenylephrine for hypotension. She was given vancomycin and 
zosyn. She was given 2L of NS. She was also given 40mg of 
solumedrol (***unclear why).Family meeting was held and it was 
decided that patient would want further aggressive therapy. She 
was started on cooling protocol and transferred to ___ for 
further care. 

Of note, patient has a history of CAD s/p angioplasty and stent 
in ___ and stents in RCA and LAD in ___ (per 
chart review). 

REVIEW OF SYSTEMS:  Unable to obtain ___ patient being intubated

 
Past Medical History:
1. CARDIAC RISK FACTORS: Diabetes, HTN, Dyslipidemia

2. CARDIAC HISTORY  
- CAD s/p stents to RCA and LAD most recently in ___ per 
chart. No clear  

3. OTHER PAST MEDICAL HISTORY:
Hypothyroidism 
Breast cancer
Myelodysplastic syndrome 
Dementia

 
Social History:
___
Family History:
Unable to obtain
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS:  37 149/85 ___ in sinus, 100% on 60% FiO2
GENERAL: Intubated and sedated  
HEENT: Blood in the OP and nasopharynx. Atraumatic 
NECK: Supple. JVP of 10cm  
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs, 
rubs, or gallops.  
LUNGS: Intubated. Crackles anteriorly. No wheezes 
ABDOMEN: Soft, non-tender, non-distended. 
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
Neuro: RAS <5. Pupils 1mm bilaterally and non-reactive. Does not 
withdraw to pain, no gag reflex, no corneal reflex bilaterally, 
Babinski downgoing. reflexes 1+ throughout. 
PULSES: Distal pulses palpable and symmetric.

PHYSICAL EXAM - EXPIRED
GENERAL: Not responsive to painful stimuli
HEENT: Pupils fixed bilaterally
CARDIAC: No heart sounds
LUNGS: No lung sounds
VASCULAR: No palpable radial or carotid pulses

 
Pertinent Results:
ADMISSION LABS
---------------
___ 02:15PM BLOOD WBC-10.5* RBC-3.67* Hgb-10.9* Hct-34.8 
MCV-95 MCH-29.7 MCHC-31.3* RDW-13.6 RDWSD-46.9* Plt ___
___ 02:15PM BLOOD Neuts-86* Bands-6* Lymphs-6* Monos-1* 
Eos-0 Baso-1 ___ Myelos-0 AbsNeut-9.66* 
AbsLymp-0.63* AbsMono-0.11* AbsEos-0.00* AbsBaso-0.11*
___ 02:15PM BLOOD ___ PTT-39.2* ___
___ 02:15PM BLOOD Glucose-476* UreaN-31* Creat-1.6* Na-140 
K-3.5 Cl-103 HCO3-20* AnGap-21*
___ 02:15PM BLOOD ALT-278* AST-588* CK(CPK)-1497* 
AlkPhos-146* TotBili-0.7
___ 02:15PM BLOOD CK-MB-58* MB Indx-3.9 cTropnT-2.11*
___ 02:15PM BLOOD Calcium-7.2* Phos-3.0 Mg-1.7
___ 02:22PM BLOOD ___ pO2-60* pCO2-43 pH-7.27* 
calTCO2-21 Base XS--6 Comment-GREEN TOP
___ 02:22PM BLOOD Lactate-6.4*
___ 02:22PM BLOOD freeCa-0.96*

IMAGING
--------
___ TTE: The left atrium is normal in size. Left ventricular 
wall thicknesses and cavity size are normal. There is moderate 
to severe regional left ventricular systolic dysfunction with 
severe hypokinesis to akinesis of the septum, anterior wall, 
distal inferior wall and apex. The remaining segments contract 
normally. Quantitative (biplane) LVEF = 31 %. The estimated 
cardiac index is borderline low (2.0-2.5L/min/m2). Doppler 
parameters are indeterminate for left ventricular diastolic 
function. The right ventricular cavity is mildly dilated with 
mild global free wall hypokinesis. The aortic valve leaflets (3) 
are mildly thickened but aortic stenosis is not present. Mild to 
moderate (___) aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. Mild (1+) mitral regurgitation is seen. The estimated 
pulmonary artery systolic pressure is normal. There is an 
anterior space which most likely represents a prominent fat pad. 


IMPRESSION: Moderate to severe regional left ventricular 
dysfunction c/w CAD (LAD distribution). Mildly dilated right 
ventricle with mild free wall hypokinesis. Mild to moderate 
aortic regurgitation. Mild mitral regurgitation.  

___ CXR: ET tube tip is 4 cm above the carinal.  NG tube tip 
is in the stomach.  Heart size and mediastinum are overall 
unremarkable.  Interstitial opacities left more than right are 
concerning with mild interstitial pulmonary edema.  Some all via 
lower component might be there as well.  There is no 
pneumothorax. 

 
Brief Hospital Course:
___ y.o F with mild dementia, CAD, DM on insulin, and HTN, who 
initially presented to ___ for lethargy and hypoxia and 
was found to have and RSV infection and who is now s/p cardiac 
arrest this AM with suggestion of cardiac etiology. Patient is a 
poor historian at baseline and was intubated on arrival. History 
obtained from chart. Patient presented to ___ with cough 
and lethargy and was noted to be hypoxic. She tested positive 
for RSV and was admitted for symptomatic treatment with 
supplemental O2 and nebs. A CXR was notably negative on 
admission for PNA or signs of volume overload. The following 
morning, immediately after phlebotomy she was noted to be 
unresponsive, cyanotic and pulseless and so a code blue was 
called. Rhythm was reportedly PEA (no strips sent with patient). 
She was intubated in this setting. She underwent 5 rounds of 
CPR, 3 rounds of epinephrine, 2 amps of bicarb. She had an 
emergent left femoral groin line placed. ROSC was achieved and 
she was transferred to ICU for further management. She was 
initially started on post-arrest protocol but after discussions 
with her family, decision to transition care to CMO was made. 
Patient subsequently passed away.  

 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Memantine 28 mg PO DAILY 
2. detemir 22 Units Bedtime
3. linagliptin 5 mg oral DAILY 
4. Repaglinide 1 mg PO TIDAC 
5. Levothyroxine Sodium 100 mcg PO DAILY 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. Atorvastatin 40 mg PO QPM 
8. Aspirin 81 mg PO DAILY 
9. TraZODone 25 mg PO QHS 
10. Vitamin D 1000 UNIT PO DAILY 
11. Cyanocobalamin 100 mcg PO DAILY 
12. SITagliptin 50 mg oral DAILY 
13. Ezetimibe 10 mg PO DAILY 
14. Sertraline 75 mg PO DAILY 
15. Clopidogrel 75 mg PO DAILY 

 
Discharge Medications:
Expired
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Expired
 
Discharge Condition:
Expired
 
Discharge Instructions:
Expired
 
Followup Instructions:
___